US07732463B2
A mixture of 2-bromo-4-fluoro-1-methoxy-benzene (36.2 g, 176.7 mmol) and dry TBF (25 mL) was added to a cooled solution of n-butyl lithium (2.1 M in hexane, 101 mL, 212.1 mmol) in dry THE (100 mL) at rate so that the temperature was maintained below −40° C. The mixture was stirred for 30 min at −78° C. before 4-oxo-piperidine-1-carboxylic acid ethyl ester (30.4 g, 176.7 mmol) was added at a rate so that the temperature was maintained below −50° C. The resulting mixture was allowed to warm to rt and stirring was continued overnight. Water (100 mL) and ethyl acetate (100 mL) was added. The organic layer was washed with saturated aqueous ammonium chloride (100 mL), dried over magnesium sulfate, and evaporated in vacuo to afford 52.3 g (>95%.) of 4-(5-fluoro-2-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid ethyl ester, which was sufficiently pure for the next step. This material was dissolved in triethyl-silane (100 mL) and TFA (200 mL) and stirred at rt for 3 days. The volatiles were removed in vacuo and the residue was purified by chromatography on silica gel (eluent: ethyl acetate/heptane 1:3) to afford 44.4 g (ca. 90%) of 4-(5-fluoro-2-methoxy-phenyl)-piperidine-1-carboxylic acid ethyl ester. This material was refluxed overnight in a mixture of 33% hydrogen bromide in acetic acid (75 mL) and concentrated aqueous hydrobromic acid (75 mL). The crude mixture was cooled on an icebath, and 18.9 g (43%) of 4-fluoro-2-piperidin-4-yl-phenol as the hydrobromic acid salt. A slurry of this compound (23.9 g, 86.5 mmol) in dichloromethane (200 mL) was treated with triethyl amine (13.2 mL, 95.2 mmol) for 1 h before Boc2O (18.9 g, 86.5 mmol) was added and stirring was continued for 30 min. The crude mixture was washed with saturated aqueous ammonium chloride (50 mL) and water (25 mL). The organic layer was dried over magnesium sulfate and the volatiles were removed in vacuo. The residue crystallized to yield 14.2 g (55%) of 4-(5-fluoro-2-hydroxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester. This compound was transformed into 4-(5-fluoro-2-tri-iso-propylsilanylsulfanyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester in a similar way as described for 4-(2-fluoro-6-tri-iso-propylsilanylsulfanyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 2-bromo-4-fluoro-1-methoxy-benzene | 176.7 mmol, 36.2 g | BrC1=C(C=CC(=C1)F)OC | C7H6BrFO
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | n-butyl lithium | 212.1 mmol, 2.1 M, 101 mL | C(CCC)[Li]
reactant | 4-oxo-piperidine-1-carboxylic acid ethyl ester | 176.7 mmol, 30.4 g | C(C)OC(=O)N1CCC(CC1)=O | C8H13NO3
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 100 mL | O | H2O
product | 4-(5-fluoro-2-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid ethyl ester | 52.3 g, >95% | C(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC(=C1)F)OC | C15H20FNO4
